US07696240B2
Using general procedure B, methyl 4H-thieno[3,2-b]pyrrole-5-carboxylate was coupled with 1-bromomethyl-naphthalene to give 4-naphthalen-1-ylmethyl-4H-thieno[3,2-b]pyrrole-5-carboxylic acid methyl ester which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give the title compound as a white solid. MS: 306.3 ([M−H]−).

reactant | methyl 4H-thieno[3,2-b]pyrrole-5-carboxylate | S1C=CC=2NC(=CC21)C(=O)OC | C8H7NO2S
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 4-naphthalen-1-ylmethyl-4H-thieno[3,2-b]pyrrole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N1CC1=CC=CC3=CC=CC=C13)C=CS2 | C19H15NO2S
